US09079866B2
6-((2-Bromophenoxy)methyl)picolinonitrile
To a sealable 4 mL vial, containing 6-(chloromethyl)picolinonitrile (100 mg, 0.66 mmol) and 2-bromophenol (113 mg, 0.66 mmol), were added Cs2CO3 (320 mg, 0.98 mmol) and acetonitrile (1.7 mL). The vial was then heated at 80° Celsius for 15 hours. The reaction was then diluted with ethyl acetate, filtered through a celite plug and concentrated to dryness. The material was used without further purification. 1H NMR (500 MHz, CDCl3) δ 8.02-7.93 (m, 1H), 7.93-7.85 (m, 1H), 7.65-7.59 (dd, J=7.7, 1.1, 1H), 7.58-7.53 (dd, J=7.9, 1.6, 1H), 7.29-7.22 (m, 1H), 6.93-6.90 (dd, J=8.3, 1.3, 1H), 6.90-6.86 (m, 1H), 5.23 (s, 2H).

reactant | 6-(chloromethyl)picolinonitrile | 0.66 mmol, 100 mg | ClCC1=CC=CC(=N1)C#N | C7H5ClN2
reactant | 2-bromophenol | 0.66 mmol, 113 mg | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | Cs2CO3 | 0.98 mmol, 320 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | acetonitrile | 1.7 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-((2-Bromophenoxy)methyl)picolinonitrile | BrC1=C(OCC2=CC=CC(=N2)C#N)C=CC=C1 | C13H9BrN2O
